US07622466B2
5-(1-Isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid 4-fluoro-benzylamide
The title compound was synthesized in analogy to example 9, intermediate a), from 5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid hydrochloride, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate, 4-fluorobenzylamine and N,N-diisopropylethylamine (7 eq.) in DMF to give the desired product as a light yellow solid (37%).

reactant | 5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid hydrochloride | Cl.C(C)(C)N1CCC(CC1)OC=1C=C2C(=NC1)NC(=C2)C(=O)O
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | N,N-diisopropylethylamine | 7 eq. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(1-Isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid 4-fluoro-benzylamide | 37% | FC1=CC=C(CNC(=O)C2=CC=3C(=NC=C(C3)OC3CCN(CC3)C(C)C)N2)C=C1 | C23H27FN4O2
